US05190969
Preparation of (2S-cis)-3-Nonyloxirane methanol
To a slurry of 500 mg of powdered 4A molecular sieves in 30 ml of dry CH2Cl2 at 0'C. under argon, was added 232 mg (0.82 mmole) of Ti(Oi-Pr)4 followed by 266 mg (1.14 mmole) of L(+)diisopropyl tartrate. The mixture was allowed to stir for 15 min. The mixture was cooled to -20'C and a solution of 0.75 g (4.1 mmole) of cis-2-dodecene-1-ol in 5 ml of CH2Cl2, which has been dried over 3A molecular sieves for 15 min, was then added. After the catalyst had "aged" for 20 min, 2.15 ml of 3.8 M (8.17 mmole) tert-butyl hydroperoxide in isooctane was added slowly by syringe. The reaction was then allowed to stand in the freezer (-30'C) for seven days. The mixture was then warmed to 0'C and 5 ml of H2O was added with stirring. After 30 min, 1.5 ml of 30% NaOH in saturated brine was added and the mixture was allowed to stir 60 min longer. The organic layer was separated and the aqueous layer was washed twice with 20 ml of CH2Cl2. The combined organic layers were dried over MgSO4, filtered and evaporated to afford a sticky white solid. Recrystallization from Et2O: petroleum ether yielded 570 mg of a flocculent white solid mp 55°-6° C. 1H NMR (CDCl3)δ3.86 (ddd, 1, J=4, 8, 12 Hz), 3.7 (m, 1), 3.16 (dt, 1, J=4, 7 Hz) 3.0 (m, 1), 1.6-1.1 (m, 12), 0.88 (t, 3, J=7 Hz). Mass spectra EI; M-31 (--CH2OH), Calc. 169.1592, Found 169.1581.

reactant | cis-2-dodecene-1-ol | 4.1 mmole, 0.75 g | C(\C=C/CCCCCCCCC)O | C12H24O
reactant | tert-butyl hydroperoxide | 8.17 mmole, 3.8 M | C(C)(C)(C)OO | C4H10O2
reactant | H2O | 5 ml | O | H2O
reactant | NaOH | 1.5 ml | [OH-].[Na+]
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | isooctane | C(C)(C)CC(C)(C)C | C8H18
solvent | brine | [Cl-].[Na+].O
product | (2S-cis)-3-Nonyloxirane methanol | 570 mg | C(CCCCCCCC)[C@@H]1[C@@H](O1)CO | C12H24O2
